US08202858B2
4-Azidomethyl-3-fluorobenzoic Acid Methyl Ester
Sodium azide (609 mg) was added to a solution of 4-bromomethyl-3-fluorobenzoic acid methyl ester from Example E3.2 (2.1 g, 8.5 mmol) in DMF (30 ml). The mixture was stirred for 18 h, diluted with EtOAc, washed with water and brine and concentrated in vacuo to give a colourless oil identified as the title compound (1.8 g, 100%).

reactant | Sodium azide | 609 mg | [N-]=[N+]=[N-].[Na+]
reactant | 4-bromomethyl-3-fluorobenzoic acid methyl ester | COC(C1=CC(=C(C=C1)CBr)F)=O | C9H8BrFO2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Azidomethyl-3-fluorobenzoic Acid Methyl Ester | 1.8 g, 100% | COC(C1=CC(=C(C=C1)CN=[N+]=[N-])F)=O | C9H8FN3O2
